US06642395B1
1) Preparation of (R)-2-(3-chlorophenyl)-2-hydroxyethyl Methanesulfonate
Into methanol (10 ml) were added (R)-2-(3-chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethyl methanesulfonate (3.0 g) and hydrochloric acid (0.11 g), and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was neutralized, concentrated, and ethyl acetate and water were added to the resulting residue. The organic layer was collected by layer separation, washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was distilled off under reduced pressure to obtain a colorless oily compound mentioned above (2.1 g, 93.5%).

reactant | (R)-2-(3-chlorophenyl)-2-(3,4,5,6-tetrahydro-[2H]-pyran-2-yloxy)ethyl methanesulfonate | 3.0 g | CS(=O)(=O)OC[C@H](OC1OCCCC1)C1=CC(=CC=C1)Cl | C14H19ClO5S
reactant | hydrochloric acid | 0.11 g | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | (R)-2-(3-chlorophenyl)-2-hydroxyethyl Methanesulfonate | CS(=O)(=O)OC[C@H](O)C1=CC(=CC=C1)Cl | C9H11ClO4S
